US09212190B2
To a solution of methyl 4-[(tert-butyldimethylsilyl)oxy]-1-methylcyclohexane-1-carboxylate (10.0 g, 34.91 mmol, 1.00 equiv) in 100 mL of tetrahydrofuran was added TBAF-3H2O (16.5 g, 52.30 mmol, 1.50 equiv) at room temperature and stirred for 5 h. Then the reaction was quenched with water, extracted with 3×100 mL of ethyl acetate. The organic layers were combined, washed with brine, dried over sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1/2) to give 5.8 g (96%) of methyl 4-hydroxy-1-methylcyclohexane-1-carboxylate as a light yellow oil.

reactant | methyl 4-[(tert-butyldimethylsilyl)oxy]-1-methylcyclohexane-1-carboxylate | 34.91 mmol, 10.0 g, 1.00 equiv | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)(C(=O)OC)C | C15H30O3Si
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | methyl 4-hydroxy-1-methylcyclohexane-1-carboxylate | 5.8 g, 96% | OC1CCC(CC1)(C(=O)OC)C | C9H16O3
